US08044070B2
1) Production of 2-(1-t-butoxycarbonylpiperidin-4-yloxy)-5-(phenoxycarbonyl)pyrimidine
Palladium acetate (35 mg, 0.31 mmol), bis(diphenylphosphino)ferrocene (170 mg, 1.54 mmol), phenol (1.5 ml, 17.1 mmol), triethylamine (0.5 ml, 3.6 mmol) were added in that order to a toluene solution (1.0 ml) of 2-(1-t-butoxycarbonylpiperidin-4-yloxy)-5-bromopyridine (550 mg, 1.54 mmol), and stirred in a carbon monoxide atmosphere under normal pressure at 100° C. for 14 hours. The reaction mixture was cooled to room temperature, an aqueous saturated sodium bicarbonate solution was added thereto and extracted with ethyl acetate. The organic layer was washed with saturated saline solution, dried with anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified through silica gel column chromatography (C-200, hexane:ethyl acetate=7:3) to obtain the entitled compound (589 mg, 96%).

reactant | phenol | 17.1 mmol, 1.5 ml | C1(=CC=CC=C1)O | C6H6O
reactant | triethylamine | 3.6 mmol, 0.5 ml | C(C)N(CC)CC | C6H15N
reactant | 2-(1-t-butoxycarbonylpiperidin-4-yloxy)-5-bromopyridine | 1.54 mmol, 550 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=NC=C(C=C1)Br | C15H21BrN2O3
reactant | carbon monoxide | [C]=O | CO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | Palladium acetate | 0.31 mmol, 35 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | bis(diphenylphosphino)ferrocene | 1.54 mmol, 170 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)[C-]1C=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | toluene | 1.0 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(1-t-butoxycarbonylpiperidin-4-yloxy)-5-(phenoxycarbonyl)pyrimidine | 589 mg, 96% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=NC=C(C=N1)C(=O)OC1=CC=CC=C1 | C21H25N3O5
